US07074800B1
A mixture of 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (200 mg, 0.595 mmol), (prepared as described for the starting material in Example 67), potassium carbonate (411 mg, 2.98 mmol) and 4-hydroxyindole (103 mg, 0.774 mmol) in DMA (2.0 ml) was stirred at 85° C. for 3 hours and allowed to cool to ambient temperature. The reaction mixture was filtered and the filtrate evaporated to give a solid residue. The residue was purified by silica column chromatography, with gradient elution using dichloromethane with 0%, 2%, 4%, 10% methanolic ammonia to give 4-(indolyloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline (131 mg, 51%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 0.595 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | potassium carbonate | 2.98 mmol, 411 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxyindole | 0.774 mmol, 103 mg | OC1=C2C=CNC2=CC=C1 | C8H7NO
solvent | DMA | 2.0 ml | CC(=O)N(C)C | C4H9NO
product | 4-(indolyloxy)-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 131 mg, 51% | N1C(=CC2=CC=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C25H28N4O3
